* 48 V to approximately 12 V two-switch forward -- open-loop LTspice draft
* Dr. Fulong Li -- September 2026. Native LTspice execution pending.
* Generic lossy elements, not a selected or validated hardware BOM.
* Np:Ns = 4:3 (n = 1.3333), so Lsec = Lpri/n^2 = 500u/1.7778 = 281.25u.
* Two-switch version: the clamp diodes reset the core AND limit each
* switch to Vin, instead of the 2*Vin seen by a single-switch forward.
.param VIN=48 FS=100k DUTY=0.3333
.param LP=500u LS=281.25u LOUT=150u CVAL=100u RLOAD=4.8
Vinput in 0 {VIN}
* Both switches driven by the SAME gate signal.
S1 in a gate 0 SWMOD
S2 b 0 gate 0 SWMOD
* DOT CONVENTION: dot on the first node listed. Primary dot at "a" and
* secondary dot at "sec" means they are IN PHASE -- the secondary conducts
* while the switches are ON. That is what makes this a FORWARD converter.
Lpri a b {LP}
Lsec sec 0 {LS}
K1 Lpri Lsec 0.995
* Clamp / reset diodes: return magnetising energy to the input during OFF.
Dc1 0 a DMOD
Dc2 b in DMOD
* Secondary: forward diode, freewheel diode, then a normal buck-style LC.
Dfwd sec n1 DMOD
Dfw 0 n1 DMOD
Lo n1 out {LOUT}
Cout out 0 {CVAL}
Rload out 0 {RLOAD}
Vgate gate 0 PULSE(0 5 10u 10n 10n {DUTY/FS} {1/FS})
.model SWMOD SW(Ron=0.05 Roff=100Meg Vt=2.5 Vh=0)
.model DMOD D(Is=1u N=1.1 Rs=0.02 Cjo=100p Tt=0)
* DUTY MUST STAY BELOW 0.5 or the core will not reset and will walk into
* saturation. Try 0.55 and watch the magnetising current stair-case away.
* V(n1) is a clean rectangular buck input at Vin/n = 36 V.
.tran 0 10m 8m 20n
.options plotwinsize=0
.meas tran Vout_avg AVG V(out) FROM 8m TO 10m
.meas tran Vout_pp PP V(out) FROM 9.98m TO 10m
.meas tran Va_max MAX V(a) FROM 8m TO 10m
.meas tran ILo_avg AVG I(Lo) FROM 8m TO 10m
.meas tran Imag_pk MAX I(Lpri) FROM 8m TO 10m
.end
